US04001427
44.0 g (0.55 mole) of 50% aqueous sodium hydroxide was added to a mixture of 42.5 g (0.22 mole) of 2,3,5-trichlorophenol and 43.4 g (0.26 mole) of 2-bromobutyric acid, with rapid stirring at an initial temperature of 15° C. The temperature rose to 45° C over the course of the addition during which time a cold water bath was applied. At the completion of the sodium hydroxide addition, the cold bath was removed and the mixture was heated to 110° C for a 15-minute period. Then 50 ml of water, 53 ml of perchloroethylene, and 42 ml of concentrated hydrochloric acid were added and the mixture was heated to 85° C, then phase-separated. The organic layer was cooled and the product, α-(2,3,5-trichlorophenoxy)butyric acid, crystallized. The acid was isolated by filtration to give 43.1 g (69.1% yield) of α-(2,3,5-trichlorophenoxy)butyric acid, m.p. 106°-114° C.

reactant | sodium hydroxide | 0.55 mole, 44.0 g | [OH-].[Na+]
reactant | 2,3,5-trichlorophenol | 0.22 mole, 42.5 g | ClC1=C(C=C(C=C1Cl)Cl)O | C6H3Cl3O
reactant | 2-bromobutyric acid | 0.26 mole, 43.4 g | BrC(C(=O)O)CC | C4H7BrO2
product | α-(2,3,5-trichlorophenoxy)butyric acid | 43.1 g, 69.1% yield | ClC1=C(OC(C(=O)O)CC)C=C(C=C1Cl)Cl | C10H9Cl3O3
